US07291632B2
Preparation 14. N-(3-Amino-4-fluorophenyl)-2-chloro-4-fluorobenzamide
Add 2-chloro-4-fluoro-N-(4-fluoro-3-nitrophenyl)benzamide (Preparation 11, 1 g, 3.2 mmol) to a warm solution (55° C.) of SnCl2.2H2O (3.6 g, 16 mmol) in ethanol (25 mL). Add concentrated HCl (25 mL). Stir and heat the mixture at 60° C. for 30 min. Cool and then basicify the mixture to pH 14 with aqueous NaOH. Extract the product three times with ethyl acetate (3×150 mL). Combine the organic layers and dry over anhydrous sodium sulfate. Evaporate the solvent under reduced pressure. Further purify the residue by chromatography on silica gel, using a gradient of 10–50% ethyl acetate in hexanes to obtain the title intermediate (800 mg, 89% yield): mass spectrum (ion spray): m/z=283.0 (M+1).

reactant | 2-chloro-4-fluoro-N-(4-fluoro-3-nitrophenyl)benzamide | 3.2 mmol, 1 g | ClC1=C(C(=O)NC2=CC(=C(C=C2)F)[N+](=O)[O-])C=CC(=C1)F | C13H7ClF2N2O3
reactant | SnCl2.2H2O | 16 mmol, 3.6 g | O.O.Cl[Sn]Cl
reactant | HCl | 25 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N-(3-Amino-4-fluorophenyl)-2-chloro-4-fluorobenzamide | 800 mg, 89% yield | NC=1C=C(C=CC1F)NC(C1=C(C=C(C=C1)F)Cl)=O | C13H9ClF2N2O
